US06245804B1
4-Toluenesulfonic acid-(2-hydroxy-4-phenyl-2-trifluoromethyl-pentyl)ester
4.25 g of 4-phenyl-2-trifluoromethyl-1,2-pentanediol in 30 ml of pyridine is mixed at 0° C. with 3.8 g of 4-toluenesulfonic acid chloride. After 16 hours at 0° C., it is concentrated by evaporation in a vacuum, mixed with ethyl acetate, washed with water, dried (Na2SO4) and concentrated by evaporation. By crystallization from ethyl acetate/hexane, 4.9 g of 4-toluenesulfonic acid-(2-hydroxy-4-phenyl-2-trifluoromethyl-pentyl)ester, melting point 95-96° C., is obtained.

reactant | 4-phenyl-2-trifluoromethyl-1,2-pentanediol | 4.25 g | C1(=CC=CC=C1)C(CC(CO)(O)C(F)(F)F)C | C12H15F3O2
reactant | 4-toluenesulfonic acid chloride | 3.8 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 4-Toluenesulfonic acid-(2-hydroxy-4-phenyl-2-trifluoromethyl-pentyl)ester | OC(COS(=O)(=O)C1=CC=C(C=C1)C)(CC(C)C1=CC=CC=C1)C(F)(F)F | C19H21F3O4S
